US04374248
D. 3-(3-Guanidinophenoxy)propylamine
To a partial suspension of N-[3-(3-guanidinophenoxy)propyl]phthalimide hydrochloride (1.0 g; 2.95 mmoles) in 10 ml of 95% aqueous ethanol was added 0.27 ml of hydrazine hydrate. The mixture was stirred at ambient temperature for 17 hours and evaporated under reduced pressure to give the title compound. The product was used without further purification in Step E.

reactant | N-[3-(3-guanidinophenoxy)propyl]phthalimide hydrochloride | 2.95 mmoles, 1.0 g | Cl.N(C(=N)N)C=1C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1
reactant | hydrazine hydrate | 0.27 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(3-Guanidinophenoxy)propylamine | N(C(=N)N)C=1C=C(OCCCN)C=CC1 | C10H16N4O
